US04367238
7-(2-Chlorophenylthio)-2,3-dihydrobenzofuran-2-one (0.2 g) was added to a solution of potassium hydroxide in methanol, and the mixture was stirred under warming to give 2-[2-hydroxy-3-(2-chlorophenylthio)phenyl]acetic acid (0.2 g), mp. 91°-93° C.

reactant | 7-(2-Chlorophenylthio)-2,3-dihydrobenzofuran-2-one | 0.2 g | ClC1=C(C=CC=C1)SC1=CC=CC=2CC(OC21)=O | C14H9ClO2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 2-[2-hydroxy-3-(2-chlorophenylthio)phenyl]acetic acid | 0.2 g | OC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC(=O)O | C14H11ClO3S
